### PR TITLE
[Merged by Bors] - feat: port Algebra.Lie.Weights

### PR DESCRIPTION
**Pull request by xroblot**
---

- [x] depends on: #4995 
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#4995
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Algebra/Lie/Weights.lean [hunk 1]
```diff
@@ -0,0 +1,514 @@
...
+#align lie_algebra.zero_root_subalgebra LieAlgebra.zeroRootSubalgebra
+
+@[simp]
+theorem coe_zeroRootSubalgebra : (zeroRootSubalgebra R L H : Submodule R L) = rootSpace H 0 := rfl
+#align lie_algebra.coe_zero_root_subalgebra LieAlgebra.coe_zeroRootSubalgebra
+
+theorem mem_zeroRootSubalgebra (x : L) :
+    x ∈ zeroRootSubalgebra R L H ↔ ∀ y : H, ∃ k : ℕ, (toEndomorphism R H L y ^ k) x = 0 := by
+  rw [zeroRootSubalgebra]
+  -- Porting note: added the following `change` otherwise the `simp` fails
```
Comment (semorrison) [inline Mathlib/Algebra/Lie/Weights.lean:410]:
```suggestion
  -- Porting note: added the following `change` otherwise the `simp` fails
  -- See https://github.com/leanprover-community/mathlib4/issues/5026
```

File: Mathlib/Algebra/Lie/Weights.lean [hunk 2]
```diff
@@ -0,0 +1,514 @@
...
+    simp only [AddSubmonoid.coe_add, Submodule.coe_toAddSubmonoid, add_lie, LinearMap.coe_mk,
+      AddHom.coe_mk, LinearMap.add_apply, AddSubmonoid.mk_add_mk]
+  map_smul' t x := by
+    simp only [RingHom.id_apply]
+    ext m
+    simp only [SetLike.val_smul, smul_lie, LinearMap.coe_mk, AddHom.coe_mk, LinearMap.smul_apply,
+      SetLike.mk_smul_mk]
+#align lie_algebra.root_space_weight_space_product_aux LieAlgebra.rootSpaceWeightSpaceProductAux
+
+-- Porting note: this def is _really_ slow
```
Comment (semorrison) [inline Mathlib/Algebra/Lie/Weights.lean:353]:
```suggestion
-- Porting note: this def is _really_ slow
-- See https://github.com/leanprover-community/mathlib4/issues/5028
```

**Comment by semorrison** [comment]
bors d+
